US08217065B2
{5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-phenyl-amine
To a solution of 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (150 mg, 0.466 mmol) in DMF (3 mL) add phenyl isothiocyanate (97 uL, 0.512 mmol) and stir for 3.5 hr. Add EDCI (179 mg, 0.932 mmol) and heat to 80° C. for 1 hr. Upon cooling to room temp dilute the reaction with EtOAc (75 mL) and extract with water (15 mL). Evaporate the organic phase and suspend the resulting residue in 1 N NaOH (5 mL). Collect the solid and wash with water. Take the solid up in boiling toluene/EtOAc. Allow to cool. Collect the solid, wash with Et2O, and dry in a vac-oven to afford the title compound as an off-white solid: 1H NMR (400 MHz, DMSO-d6) ppm 7.03 (t, J=7.39 Hz, 1 H) 7.39 (t, J=7.96 Hz, 2 H) 7.63-7.69 (m, 3 H) 7.71 (d, J=1.26 Hz, 1 H) 7.73 (t, J=1.89 Hz, 1 H) 7.77 (tautomer A, d, J=8.59 Hz, 1 H) 7.83 (tautomer B, dd, J=8.46, 1.52 Hz, 1 H) 7.91 (dd, J=8.46, 1.52 Hz, 1 H) 8.05 (tautomer B, d, J=1.01 Hz, 1 H) 8.17 (tautomer A, s, 1 H) 10.68 (s, 1 H) 13.30 (d, J=4.17 Hz, 1 H); MS (m/z)=422.0 (M+1).

reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.466 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | phenyl isothiocyanate | 0.512 mmol, 97 uL | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | EDCI | 0.932 mmol, 179 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | {5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-phenyl-amine | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C2=NN=C(O2)NC2=CC=CC=C2 | C21H13Cl2N5O
